US08975252B2
Potassium carbonate (5.03 g), trimethyl boroxin (3.18 ml) and bis(diphenylphosphino)ferrocene dichloropalladium(II) (666 mg) were added to a solution of methyl 6-chloro-1H-pyrrolo[2,3-b]pyridin-1-carboxylate (1.92 g) in 1,4-dioxane (140 ml) and the mixture was stirred at 110° C. for 4 hours under argon atmosphere. The reaction mixture was cooled to room temperature, insoluble materials were filtered and the filtrate was concentrated in vacuo. The residue was diluted with ethyl acetate, washed with water and saturated brine successively, dried over magnesium sulfate and concentrated in vacuo. The resulted residue was purified with a silica gel column chromatography (eluting solvent: n-hexane/ethyl acetate=4/1 to 3/7) to give methyl 6-methyl-1H-pyrrolo[2,3-b]pyridin-1-carboxylate (1.30 g) as a brown powder.

reactant | Potassium carbonate | 5.03 g | C([O-])([O-])=O.[K+].[K+]
reactant | trimethyl boroxin | 3.18 ml | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | methyl 6-chloro-1H-pyrrolo[2,3-b]pyridin-1-carboxylate | 1.92 g | ClC1=CC=C2C(=N1)N(C=C2)C(=O)OC | C9H7ClN2O2
solvent | 1,4-dioxane | 140 ml | O1CCOCC1 | C4H8O2
catalyst | bis(diphenylphosphino)ferrocene dichloropalladium(II) | 666 mg | Cl[Pd]Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)[C-]1C=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 6-methyl-1H-pyrrolo[2,3-b]pyridin-1-carboxylate | 1.30 g | CC1=CC=C2C(=N1)N(C=C2)C(=O)OC | C10H10N2O2
